US05710256
Preparation of 2,2-Diphenyl-4-dimethylaminopentanenitrile
Sodium hydride (19.5 g of an 80% dispersion in oil, 0.65 mol) was added to a 1 L 3-neck round bottom flask and triturated twice with hexane (150 mL) to remove the oil). Tetrahydrofuran (THF)(150 mL) was added to the flask followed by a stir bar and the resulting suspension stirred under argon whilst adding a solution of diphenylacetonitrile (58 g, 0.3 mol) in THF (150 mL) dropwise via a dropping funnel over 40 minutes. It became necessary to cool the flask in a cold water bath during the addition due to the exotherm generated. After stirring a further 10 minutes at room temperature the flask was fitted with a reflux condenser and placed in an ice bath. The resulting green suspension was then treated with 2-dimethylaminoisopropyl chloride hydrochloride (54 g, 0.34 mol) portionwise, via an addition funnel, over 15 minutes with stirring.

reactant | Sodium hydride | [H-].[Na+]
reactant | diphenylacetonitrile | 0.3 mol, 58 g | C1(=CC=CC=C1)C(C#N)C1=CC=CC=C1 | C14H11N
reactant | 2-dimethylaminoisopropyl chloride hydrochloride | 0.34 mol, 54 g | CC(CN(C)C)Cl.Cl
reactant | THF | 150 mL | O1CCCC1 | C4H8O
product | 2,2-Diphenyl-4-dimethylaminopentanenitrile | C1(=CC=CC=C1)C(C#N)(CC(C)N(C)C)C1=CC=CC=C1 | C19H22N2
